US09422263B2
2,6-Bis(difluoromethyl)-4-(1H-indazol-5-yl)-1,4-dihydropyridine-3,5-dicarbonitrile
A mixture of 80 mg (0.55 mmol) 1H-indazole-5-carbaldehyde, 142 mg (1.21 mmol) 3-amino-4,4-difluorobut-2-enenitrile [obtainable by Thorpe reaction of acetonitrile with 2,2-difluoroacetonitrile, cf. Org. React. 15, 1 (1967), ibid. 1 (1984)] and a trace amount of powdered 4 Å molecular sieve in acetic acid (0.53 ml) was heated to reflux temperature for 5 h. After cooling, the reaction mixture was diluted with THF and filtered. The filtrate was directly purified by preparative RP-HPLC (acetonitrile/water+0.1% TFA gradient) yielding 95 mg (48% of th.) of the title compound.

reactant | 1H-indazole-5-carbaldehyde | 0.55 mmol, 80 mg | N1N=CC2=CC(=CC=C12)C=O | C8H6N2O
reactant | 3-amino-4,4-difluorobut-2-enenitrile | 1.21 mmol, 142 mg | NC(=CC#N)C(F)F | C4H4F2N2
solvent | acetic acid | 0.53 ml | C(C)(=O)O | C2H4O2
solvent | THF | C1CCOC1 | C4H8O
product | 2,6-Bis(difluoromethyl)-4-(1H-indazol-5-yl)-1,4-dihydropyridine-3,5-dicarbonitrile | FC(C=1NC(=C(C(C1C#N)C=1C=C2C=NNC2=CC1)C#N)C(F)F)F | C16H9F4N5
